US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 23 mg, 0.053 mmol), thiazol-2-ylmethanamine-HCl (12.05 mg, 0.080 mmol), 4-methylmorpholine (21.57 mg, 0.213 mmol), and HATU (26.4 mg, 0.069 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (YMC S5 20×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=11.8 min) to provide (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(thiazol-2-ylmethyl)acetamide (19 mg, 0.033 mmol, 62.3% yield): LCMS=528.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.13-8.22 (2 H, m), 7.46-7.78 (9 H, m), 5.22 (1 H, s), 4.67-4.82 (2 H, m); HPLC peak RT=9.5 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.053 mmol, 23 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | thiazol-2-ylmethanamine-HCl | 0.080 mmol, 12.05 mg | Cl.S1C(=NC=C1)CN
reactant | 4-methylmorpholine | 0.213 mmol, 21.57 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.069 mmol, 26.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(thiazol-2-ylmethyl)acetamide | 0.033 mmol, 19 mg, 62.3% yield | OC(C(=O)NCC=1SC=CN1)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C24H16F3N5O4S
